US07569589B2
6-[1-(6-aminopyridin-2-yl)-2,2-dipyridin-3-ylethyl]pyridin-2-amine
To the solution of tert-butyl 6-(1-{6-[(tert-butoxycarbonyl)amino]pyridin-2-yl}-2-pyridin-2-yl-2-pyridin-3-ylethyl)pyridin-2-ylcarbamate (0.12 g, 0.211 mmol) in CH2Cl2 (2 mL) was added CF3COOH (2 mL) and stirred for 1 h. The mixture was concentrated and the residue was dissolved in MeOH (3 mL). Potassium carbonate (200 mg) was added and stirred for 0.5 h. The mixture was filtered and the filtrate concentrated. The residue was purified by silica gel chromatography (10% MeOH in CH2Cl2) to give the title compound. 1H-NMR (500 MHz, DMSO-d6) δ 8.60 (s, 2H), 8.32 (d, 2H, J=4.6), 7.92 (d, 2H, J=7.8), 7.41 (s, 2H), 7.28(dd, 2H, J=7.7, 4.7), 7.15 (broad, 4H), 6.60 (d, 2H, J=7.4), 6.46 (s,2H), 5.25 (d, 1H, J=10.3), 4.98 (broad, 1H). LRMS m/z (M+H) Calcd: 369.4, found: 369.1.

reactant | tert-butyl 6-(1-{6-[(tert-butoxycarbonyl)amino]pyridin-2-yl}-2-pyridin-2-yl-2-pyridin-3-ylethyl)pyridin-2-ylcarbamate | 0.211 mmol, 0.12 g | C(C)(C)(C)OC(=O)NC1=CC=CC(=N1)C(C(C=1C=NC=CC1)C1=NC=CC=C1)C1=CC=CC(=N1)NC(OC(C)(C)C)=O | C32H36N6O4
reactant | CF3COOH | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-[1-(6-aminopyridin-2-yl)-2,2-dipyridin-3-ylethyl]pyridin-2-amine | NC1=CC=CC(=N1)C(C(C=1C=NC=CC1)C=1C=NC=CC1)C1=CC=CC(=N1)N | C22H20N6
